US04060528
A mixture of 9.1 parts of diethyl 2-methyl-2-[p-(2-naphthoyl)phenyl]malonate, 6 parts of sodium hydroxide and 150 parts of water is stirred and refluxed for 8 hours. The reaction mixture is allowed to stand overnight at room temperature. The whole is diluted with water and the product is extracted with ether. The organic layer is separated and discarded. The aqueous phase is degassed on a rotavapor, filtered and acidified with hydrochloric acid solution; an oil is separated which solidifies on standing. The latter is extracted with ether and the extract is washed with water, dried and evaporated. The residue is crystallized from acetonitrile. The product is filtered off, washed with acetonitrile and dried, yielding p-(2-naphthoyl)hydratropic acid; m.p. 149.7° C.

reactant | diethyl 2-methyl-2-[p-(2-naphthoyl)phenyl]malonate | CC(C(=O)OCC)(C(=O)OCC)C1=CC=C(C=C1)C(=O)C1=CC2=CC=CC=C2C=C1 | C25H24O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | p-(2-naphthoyl)hydratropic acid | C1=C(C=CC2=CC=CC=C12)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C20H16O3
